US08304417B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (Route 3)
4-(6-Chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline hydrochloride salt (80 g) was added portionwise to a stirred mixture of sodium tert-pentoxide (90.2 g) and N-methylpyrrolidin-2-one (500 ml) under an atmosphere of nitrogen gas. 4-Hydroxytetrahydropyran (23.5 ml) and N-methylpyrrolidin-2-one (35 ml) were added and the resultant mixture was heated to 60° C. for 3 hours. Water (764 ml) was added to the heated reaction mixture during 3 hours and the mixture was stirred and heated to 60° C. for a further 3 hours. The warm reaction mixture was filtered and the isolated solid was washed with water (2×230 ml) and dried in vacuo to constant weight. There was thus obtained 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (68.6 g, 95% HPLC purity using Method A, retention time 4.6 minutes); m.p. 209-212° C.; NMR Spectrum: (DMSOd6) 1.9-2.0 (m, 2H), 2.1-2.2 (m, 2H), 3.5-3.6 (m, 2H), 3.8-3.95 (m, 2H), 5.05 (m, 1H), 6.1 (s, 2H), 6.95 (d, 1H), 7.05 (d, 1H), 7.1 (d, 1H), 7.3 (d, 1H), 8.4 (s, 1H), 9.3 (s, 1H).

reactant | 4-(6-Chloro-2,3-methylenedioxyanilino)-5,7-difluoroquinazoline hydrochloride salt | 80 g | Cl.ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)F)F)OCO2
reactant | sodium tert-pentoxide | 90.2 g | CCC(C)(C)[O-].[Na+]
reactant | N-methylpyrrolidin-2-one | 500 ml | CN1C(CCC1)=O | C5H9NO
reactant | 4-Hydroxytetrahydropyran | 23.5 ml | OC1CCOCC1 | C5H10O2
reactant | N-methylpyrrolidin-2-one | 35 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | 764 ml | O | H2O
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)F)OCO2 | C20H17ClFN3O4
